US06335459B1
Tert-butyl bromoacetate (1.88 mL, 12.69 mmol) and potassium carbonate (3.5 g, 25.38 mmol) were added to a solution of 3-bromophenol (2.09 g, 12.08 mmol) in acetone (30 mL), and the mixture was stirred at room temperature for 5 hours under a nitrogen atmosphere. The mixture was filtered, and the filtrate was evaporated to dryness to give (3-bromophenoxy)acetic acid tert-butyl ester as a colorless oil (3.53 g, 100%).

reactant | Tert-butyl bromoacetate | 12.69 mmol, 1.88 mL | BrCC(=O)OC(C)(C)C | C6H11BrO2
reactant | potassium carbonate | 25.38 mmol, 3.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-bromophenol | 12.08 mmol, 2.09 g | BrC=1C=C(C=CC1)O | C6H5BrO
solvent | acetone | 30 mL | CC(=O)C | C3H6O
product | (3-bromophenoxy)acetic acid tert-butyl ester | 3.53 g, 100% | C(C)(C)(C)OC(COC1=CC(=CC=C1)Br)=O | C12H15BrO3
